US08022062B2
Using a method similar to the General Procedure 5-2, react 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (500 mg, 1.17 mmol) with 4-(piperidin-1-ylcarbonyl)-benzylamine (308 mg, 1.41 mmol). Purify by chromatography on silica gel eluting with hexane/EtOAc (20:1, 10:1, 7:1 and 5:1) to give 7-chloro-6-[4-(piperidine-1-carbonyl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.17 mmol, 500 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-(piperidin-1-ylcarbonyl)-benzylamine | 1.41 mmol, 308 mg | N1(CCCCC1)C(=O)C1=CC=C(CN)C=C1 | C13H18N2O
product | 7-chloro-6-[4-(piperidine-1-carbonyl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)C(=O)N1CCCCC1 | C25H27ClF3N3O2
